US05753682
2. 3-Methyl-4-(2-methylimidazol-1-yl)benzyl alcohol
Prepared from 2-methylimidazole and ethyl 4-fluoro-3-methylbenzoate.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | ethyl 4-fluoro-3-methylbenzoate | FC1=C(C=C(C(=O)OCC)C=C1)C | C10H11FO2
product | 3-Methyl-4-(2-methylimidazol-1-yl)benzyl alcohol | CC=1C=C(CO)C=CC1N1C(=NC=C1)C | C12H14N2O
